Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Percocet / Ampicillin / Erythromycin Base / Sulfa (Sulfonamide 
Antibiotics) / Darvon / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Right periprosthetic distal femur fracture
 
Major Surgical or Invasive Procedure:
Right femur intramedullary nail
 
History of Present Illness:
Ms. ___ is a ___ female with a past medical
history of stroke, type 2 diabetes, HTN who presents to the ED
after unwitnessed fall with radiographic imaging demonstrating
right distal femoral shaft fracture just proximal to total knee
replacement.

Patient is very hard of healing and confused at baseline, thus,
much of history is aided from daughter.  Patient is DNR/DNI with
palliative care measures and lives at a nursing home.

Daughter is unsure of exact events as this patient, however,
patient is reportedly found down after falling out of 
wheelchair.
She presents with radiographic findings of a right femoral shaft
fracture just proximal to right total knee.

She holds her knee shortened and internally rotated.  Daughter
reports a history of a previous femoral fracture of the right
side which was treated nonoperatively due to patient's wishes. 
She is a wheelchair bound at baseline.  She has ceased all
medication including no anticoagulation medication.

Daughter is very concerned to proceed in accordance with
patient's wishes.  They generally tend to side with palliative
measures which are less invasive, but they do understand that
this type of fracture may require further intervention such as
operative management.  They prefer for limited intervention of
reduction and splinting versus more invasive measures at present
time.  They wish to speak to hospital medicine before undergoing
decisions about surgery.

Although confused, patient reports that she is neurovascularly
intact.  Chronic malformation of toes/hammertoes however able to
weakly wiggle toes on command.

Right total knee arthroplasty reportedly done in ___ at ___.

No anticoagulation medication and was recently weaned off most
chronic medication with the exception of laxatives and 
analgesia.
Wheelchair-bound at baseline.
DNR/DNI/hospitalization for extreme measures only
___ (daughter) is D POA: ___
 
Past Medical History:
- DM, diet controlled.  
- HTN  
- HLD  
- SBO likely due to her multiple abd surgeries (cholecystectomy, 
?partial hysterectomy)  
- chronic back pain  
- vertigo on meclizine  
- cholecystectomy  
- rotator cuff surgery  
- R knee replacement  
- R femur pathologic fracture, ___  
- osteoporosis  
- diverticulosis  
- colonic polyp removed (benign pathology)  
- b/l cataract surgery  
 
Social History:
___
Family History:
No FHx of stroke or MI. Sister died from aneurysm in 1980s. 
 
Physical Exam:
Temp: 98.2 BP: 147/81 HR: 85 RR: 20 O2 sat:
93% O2 delivery: Ra 
General: atraumatic head, confused and very hard of hearing,
pleasant in no acute distress
Chest: Nonlabored breathing on 1L NC
Right lower extremity: 
Dressing c/d/i
Weakly wiggles toes to command
SILT sural, saphenous, superficial peroneal, deep peroneal and
tibial distributions  
Dorsalis pedis pulse 2+ with distal digits warm and well 
perfused
 
Pertinent Results:
See OMR
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right periprosthetic distal femur fracture and was 
admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ for right femur 
intramedullary nail, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to rehab was appropriate. The 
___ hospital course was otherwise unremarkable.  
 At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
weightbearing as tolerated in the right lower extremity, and 
will be discharged on Lovenox for DVT prophylaxis. The patient 
will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.  
 
Medications on Admission:
amLODIPine 5 mg PO DAILY  
Citalopram 20 mg PO DAILY  
Pantoprazole 40 mg PO Q24H  
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
3.  Enoxaparin Sodium 30 mg SC QHS  
4.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
6.  Ramelteon 8 mg PO QPM:PRN insomnia  
7.  Vitamin D 800 UNIT PO DAILY  
8.  amLODIPine 5 mg PO DAILY  
9.  Citalopram 20 mg PO DAILY  
10.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Right femur fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:  
 - You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week.  
 - Resume your regular activities as tolerated, but please 
follow your weight bearing precautions strictly at all times.  
 ACTIVITY AND WEIGHT BEARING:  
 - weightbearing as tolerated in the right lower extremity with 
bilateral upper extremity assist 
 MEDICATIONS:  
1) Take Tylenol ___ every 6 hours around the clock. This is an 
over the counter medication.  
2) Add ibuprofen as needed for increased pain. 
 
 ANTICOAGULATION:  
 - Please take lovenox daily for 4 weeks  
 WOUND CARE:  
 - You may shower. No baths or swimming for at least 4 weeks.  
 - Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.  
 - Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.    

TREATMENT/FREQUENCY: 
Any staples or superficial sutures you have are to remain in 
place for at least 2 weeks postoperatively. Incision may be left 
open to air unless actively draining after POD3. If draining, 
you may apply a gauze dressing secured with paper tape. You may 
shower and allow water to run over the wound, but please refrain 
from bathing for at least 4 weeks postoperatively.  

 DANGER SIGNS:  
 Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:  
 - Increasing pain that is not controlled with pain medications  

 - Increasing redness, swelling, drainage, or other concerning 
changes in your incision  
 - Persistent or increasing numbness, tingling, or loss of 
sensation  
 - Fever greater than 101.4  
 - Shaking chills  
 - Chest pain  
 - Shortness of breath  
 - Nausea or vomiting with an inability to keep food, liquid, 
medications down  
 - Any other medical concerns  

 THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB
Physical Therapy:
Weightbearing as tolerated in the right lower extremity with 
bilateral upper extremity assist
Treatment Frequency:
Any staples or superficial sutures you have are to remain in 
place for at least 2 weeks postoperatively. Incision may be left 
open to air unless actively draining after POD3. If draining, 
you may apply a gauze dressing secured with paper tape. You may 
shower and allow water to run over the wound, but please refrain 
from bathing for at least 4 weeks postoperatively.  
 Call your surgeon's office with any questions.  

 
Followup Instructions:
___